US20010049441A1
3-(1-Methyl-1,2,3,6-tetrahydro-4-pyridinyl)-5-azaindole (1.754 g, 49%);
from 5-azaindole (2.0 g, 16.9 mmol); N-methyl-4-piperidone (1.92 g , 16.9 mmol) and pyrrolidine (12.04 g, 169 mmol) in ethanol (20 mL).

reactant | 5-azaindole | 16.9 mmol, 2.0 g | N1C=CC2=CN=CC=C12 | C7H6N2
reactant | N-methyl-4-piperidone | 16.9 mmol, 1.92 g | CN1CCC(CC1)=O | C6H11NO
reactant | pyrrolidine | 169 mmol, 12.04 g | N1CCCC1 | C4H9N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(1-Methyl-1,2,3,6-tetrahydro-4-pyridinyl)-5-azaindole | CN1CCC(=CC1)C1=CNC2=CC=NC=C12 | C13H15N3
